US07745490B2
D) 4-Methoxy-3-methanesulfonylamino-N-(3-methoxy-4-methanesulfonylaminophenyl)-benzamide
A suspension of 4-methoxy-3-nitro-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide (100 mg) in methanol (20 ml) was stirred under hydrogen with palladium on carbon (10%, 50 mg) for 18 hours. The solvents were removed in vacuo to give a brown gum. The residue was dissolved in pyridine (0.5 ml) and cooled to 0° C. when methanesulfonyl chloride (0.1 ml) was added, the mixture was kept at 0° C. for a further 30 minutes then brought to R.T. for 1 h. Dilute hydrochloric acid (10 ml, 1M) and dichloromethane were added, the organic layer separated, dried and evaporated in vacuo to give the product as a brown gum. Purification by column chromatography over silica gel eluting with dichloromethane containing ethyl acetate (0-100%) gave 3-methanesulfonylamino-4-methoxy-N-(3-methanesulfonylamino-4-methoxyphenyl)benzamide (65 mg, 56%) as a white solid.

reactant | 4-methoxy-3-nitro-N-(4-methanesulfonylamino-3-methoxyphenyl)benzamide | 100 mg | COC1=C(C=C(C(=O)NC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=C1)[N+](=O)[O-] | C16H17N3O7S
reactant | methanesulfonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-3-methanesulfonylamino-N-(3-methoxy-4-methanesulfonylaminophenyl)-benzamide | COC1=C(C=C(C(=O)NC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=C1)NS(=O)(=O)C | C17H21N3O7S2
